US07923456B2
5-(2-Fluoro-4-iodophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester, Method B
To a stirred suspension 2-fluoro-4-iodo aniline (53.95 g, 0.256 mol) and 5-chloro-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester (62.0 g, 0.253 mol) in THF (500 mL) under nitrogen at −78° C., a solution of lithium bis(trimethylsilyl) amide (544 mL, 1M solution, 0.544 mol) was added dropwise over 1 hr, maintaining the temperature below −65° C., giving a red/brown solution. After stirring for 30 minutes at −78° C. the reaction mixture was allowed to warm to −30° C. and then quenched with addition water (100 mL). The solvent was removed in vacuo, before diluting with water (500 ml) and the mixture was extracted with 2-methyltetrahydrofuran (2×500 mL). The combined organic extracts were washed with water, then brine, dried (MgSO4), filtered and concentrated in vacuo. The resultant residue was triturated tert-butyl methyl ether (600 mL) to yield product as yellow/brown solid (87.2 g 83%). LCMS (Method B): RT=3.54 min, [M+H]+=412.

reactant | 2-fluoro-4-iodo aniline | 0.256 mol, 53.95 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | 5-chloro-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester | 0.253 mol, 62.0 g | COC(=O)C=1C=CC=2N(C1Cl)C=NC2 | C9H7ClN2O2
reactant | lithium bis(trimethylsilyl) amide | 0.544 mol, 1M, 544 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 5-(2-Fluoro-4-iodophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester | 87.2 g, 83% | COC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2 | C15H11FIN3O2
